US07906541B2
Stage B1: Preparation of (3a) 3-[2-amino-5-(trifluoromethyl)phenyl]-4-methyl-2-(methylsulfanyl)-1,3-thiazol-3-ium iodide
1.34 g (4.61 mmol) of 3-[2-amino-5-(trifluoromethyl)phenyl]-4-methyl-1,3-thiazole-2(3H)-thione were solubilised in acetone (25 mL), then CH3I (10 eq, 2.87 mL) was added and the solution stirred at r.t. for 12 h. 3-[2-amino-5-(trifluoromethyl)phenyl]-4-methyl-2-(methylsulfanyl)-1,3-thiazol-3-ium iodide (3a) was recovered by filtration (white powder, 1.19 g, 60%) and by evaporation of the organic layer (776 mg, 39%). Mp 194° C.; 1H NMR (300 MHz, CD3OD) δ=2.27 (3H, d, J=1.1, CH3), 2.96 (3H, s, SCH3), 7.10-7.18 (1H, m, Ar), 7.62-7.70 (2H, m, Ar), 7.86 (1H, q, J=1.1, H5); 13C NMR (75 MHz, CD3OD) δ=13.74, 18.11, 118.28, 118.36, 118.68, 119.97 (q, J=34), 125.41 (q, J=270), 126.91 (q, J=4), 130.92 (q, J=4), 149.97, 148.73, 182.40; HRMS m/z C12H12N2F3S2 [M−I]+ calcd: 305.0388, found: 305.0389.

reactant | 3-[2-amino-5-(trifluoromethyl)phenyl]-4-methyl-1,3-thiazole-2(3H)-thione | 4.61 mmol, 1.34 g | NC1=C(C=C(C=C1)C(F)(F)F)N1C(SC=C1C)=S | C11H9F3N2S2
reactant | CH3I | 2.87 mL, 10 eq | CI | CH3I
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-[2-amino-5-(trifluoromethyl)phenyl]-4-methyl-2-(methylsulfanyl)-1,3-thiazol-3-ium iodide | [I-].NC1=C(C=C(C=C1)C(F)(F)F)[N+]1=C(SC=C1C)SC | InChI=1S/C12H12F3N2S2.HI/c1-7-6-19-11(18-2)17(7)10-5-8(12(13,14)15)3-4-9(10)16;/h3-6H,16H2,1-2H3;1H/q+1;/p-1
